US09371320B2
C) 3-bromo-7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile
To a solution of 7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile (1.34 g) in ethyl acetate (20.15 mL) was added NBS (1.97 g) at room temperature, and the mixture was stirred at 60° C. for 2 hr. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.30 g).

reactant | 7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile | 1.34 g | COC1=NC=C(C2=C1N(C=C2)COCC[Si](C)(C)C)C#N | C15H21N3O2Si
reactant | NBS | 1.97 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | ethyl acetate | 20.15 mL | C(C)(=O)OCC | C4H8O2
product | 3-bromo-7-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-c]pyridine-4-carbonitrile | 1.30 g | BrC1=CN(C=2C(=NC=C(C21)C#N)OC)COCC[Si](C)(C)C | C15H20BrN3O2Si
